US08895571B2
Step F: 2-[(2S)-2-[3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione
A mixture of 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (150 mg, 0.63 mmol), 2-[(2S)-2-(3-bromo-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione (150 mg, 0.32 mmol), bis(tri-t-butylphosphine)palladium (30 mg, 0.06 mmol) and N,N-diisopropylethylamine (0.16 mL, 0.95 mmol) in 1,4-dioxane (5.0 mL, 64 mmol) and water (0.5 mL, 30 mmol) was stirred at 110° C. for 40 min at microwave. Direct purification on prep.—HPLC (pH=10) afforded 48 mg (29% yield) of the desired intermediate as white solid. LC-MS found: 530.1 (M+H)+.

reactant | 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.63 mmol, 150 mg | ClC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C10H16BClN2O2
reactant | 2-[(2S)-2-(3-bromo-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.32 mmol, 150 mg | BrC=1C=C2C(=NC1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)=O | C24H17BrFN3O3
reactant | N,N-diisopropylethylamine | 0.95 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxane | 64 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
reactant | water | 30 mmol, 0.5 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.06 mmol, 30 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-[(2S)-2-[3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 48 mg, 29% yield | ClC=1C=NN(C1C=1C=C2C(=NC1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)=O)C | C28H21ClFN5O3
